US07067663B2
Step 5: Preparation of (1R, 2S, 5R)-2-isopropyl-5-methylcyclohexyl trans-2-(3,4-difluorophenyl)cyclopropanecarboxylate.
A solution of (1R,2S,5R)-2-isopropyl-5-methylcyclohexyl (E)-3-(3,4-difluorophenyl)-2-propenoate (approximately 8.6 kg) in dimethyl sulfoxide (approximately 27.9 kg) was added with stirring over 20 minutes to a mixture of dimethylsulfoxonium methylide (approximately 2.6 kg, prepared as described above), sodium iodide (approximately 4.2 kg), water (approximately 500 g) and sodium hydroxide (approximately 56 g) in dimethylsulfoxide(27.7 kg) at 25° C. The reaction mixture was stirred for a further 2 hours and 50 minutes at 25° C., then used directly for the preparation of (1R,2S,5R)-2-iopropyl-5-methylcyclohexyl trans-(1R,2R)-2-(3,4-difluorophenyl)cyclopropanecarboxylate.

reactant | (1R,2S,5R)-2-isopropyl-5-methylcyclohexyl (E)-3-(3,4-difluorophenyl)-2-propenoate | approximately 8.6 kg | FC=1C=C(C=CC1F)/C=C/C(=O)O[C@H]1[C@@H](CC[C@H](C1)C)C(C)C | C19H24F2O2
reactant | dimethylsulfoxonium methylide | approximately 2.6 kg | CS(=C)(=O)C | C3H8OS
reactant | sodium iodide | approximately 4.2 kg | [I-].[Na+]
reactant | sodium hydroxide | approximately 56 g | [OH-].[Na+]
solvent | dimethyl sulfoxide | approximately 27.9 kg | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 27.7 kg | CS(=O)C | C2H6OS
solvent | water | approximately 500 g | O | H2O
product | (1R, 2S, 5R)-2-isopropyl-5-methylcyclohexyl trans-2-(3,4-difluorophenyl)cyclopropanecarboxylate | FC=1C=C(C=CC1F)[C@H]1[C@@H](C1)C(=O)O[C@H]1[C@@H](CC[C@H](C1)C)C(C)C | C20H26F2O2
